US04409017
4-[(7-chloroisoquinolin-3-yl)oxy]phenol (2.82 g) and ethyl 2-bromopropionate (2.07 g) in the presence of anhydrous potassium carbonate (1.58 g) were refluxed in methyl ethyl ketone (50 ml) for 4 hrs. The mixture was cooled, poured into dichloromethane, washed with water, dried (MgSO4) and evaporated. Purification by column chromatography over silica gel (eluant dichloromethane) gave ethyl 2-{4-[(7-chloroisoquinolin-3-yl)oxy]phenoxy}propionate (3.33 g) as a brown oil.

reactant | 4-[(7-chloroisoquinolin-3-yl)oxy]phenol | 2.82 g | ClC1=CC=C2C=C(N=CC2=C1)OC1=CC=C(C=C1)O | C15H10ClNO2
reactant | ethyl 2-bromopropionate | 2.07 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | ethyl 2-{4-[(7-chloroisoquinolin-3-yl)oxy]phenoxy}propionate | 3.33 g | ClC1=CC=C2C=C(N=CC2=C1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18ClNO4
